US04317920
3 g. of 2-hydroxy-4-methyl-hydratropic acid phenylurethane are dissolved in acetic acid. To the solution 0.4 g. of a 5% palladium-on-charcoal catalyst are added, and the mixture is hydrogenated at 25° C. until the calculated amount of hydrogen is used up. The catalyst is filtered off and the filtrate is evaporated. The residue is admixed with a 10% aqueous hydrochloric acid solution and the separated oil is extracted with chloroform. The chloroform solution is dried over sodium sulphate and evaporated. 1.1 g. (67%) of 4-methyl-hydratropic acid are obtained.

reactant | 2-hydroxy-4-methyl-hydratropic acid phenylurethane | C1(=CC=CC=C1)NC(=O)OCC.OC1=C(C(C(=O)O)C)C=CC(=C1)C
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 4-methyl-hydratropic acid | 67% | CC1=CC=C(C(C(=O)O)C)C=C1 | C10H12O2
